US06147098
N-Cyano-N'-(3,5-bis(trifluoromethyl)phenyl)-N"-(1-methylethyl)-guanidine
N-[3,5-bis(trifluoromethyl)phenyl]-N'-cyano-O-phenylisourea (0.94 mmol, 350 mg) and isopropylamine (1 ml) was stirred in a sealed flask for 19 h at 75° C. After concentration the residue was dissolved in dichloromethane, washed with 1 N aqueous HCl (2×), water, dried (Na2SO4) and concentrated. The residue was crystallized from ethyl acetate and heptane to give the title compound (114 mg, 45%) as white crystals. Mp 176-182° C.; 1H-NMR (CDCl3): δ 1.25 (d, 6H), 4.07 (m, 1H), 5.5 (br d, 1H), 7.71 (br s, 1H), 7.75 (br s, 2H), 8.10 ppm (br, 1H); MA calc for C13H12F6N4 : C, 46.16%; H, 3.58%; N, 16.56%. Found: C, 46.15%; H, 3.64%; N, 16.45%.

reactant | N-[3,5-bis(trifluoromethyl)phenyl]-N'-cyano-O-phenylisourea | 0.94 mmol, 350 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(OC1=CC=CC=C1)=NC#N)(F)F | C16H9F6N3O
reactant | isopropylamine | 1 ml | C(C)(C)N | C3H9N
product | N-Cyano-N'-(3,5-bis(trifluoromethyl)phenyl)-N"-(1-methylethyl)-guanidine | 114 mg, 45% | C(#N)NC(=NC(C)C)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C13H12F6N4
